US07091228B2
(±)-cis-2-(4-Bromo-benzoyl)-cyclopentanecarboxylic acid methyl ester
A solution of the monomethyl ester (92.0 g, 534.3 mmol), SOCl2 (116.3 mL, 1.60 mol), and DMF (1 mL) in 850 mL CH2Cl2 was stirred at rt overnight under N2. NMR analysis showed little starting material remaining. The solvent was removed by rotary evaporation at <40° C., and the residue was dried in vacuo for 1 h. This dried residue was dissolved in bromobenzene (337.6 mL, 3.2 mol), and AlCl3 (142.5 g, 1.07 mol) was then added portionwise at <5° C. The reaction mixture turned dark brown, and was stirred at <5° C. for 4 h under N2. NMR analysis then showed little starting material remaining. The reaction mixture was then slowly poured into 2 L ice-water, and then 1 L EtOAc was added. After the mixture was stirred for 10 minutes, the aqueous (top) layer was separated, and extracted with 500 mL EtOAc. The combined organic layers were washed with water (2×1 L) and saturated NaHCO3 solution (200 mL), and dried over Na2SO4. Removal of solvent and drying in vacuo provided 175.0 g (>95%) of the desired product. 1H NMR (CDCl3) δ 7.80 (d, 2H), 7.60 (d, 2H), 4.07 (m, 1H), 3.53 (s, 3H), 3.07 (m, 1H), 2.20 (m, 1H), 2.00 (m, 4H), 1.70 (m, 1H).

reactant | SOCl2 | 1.60 mol, 116.3 mL | O=S(Cl)Cl | Cl2OS
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | bromobenzene | 3.2 mol, 337.6 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | AlCl3 | 1.07 mol, 142.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 850 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-2-(4-Bromo-benzoyl)-cyclopentanecarboxylic acid methyl ester | 175.0 g, >95% | COC(=O)[C@H]1[C@H](CCC1)C(C1=CC=C(C=C1)Br)=O | C14H15BrO3
